US08138173B2
2-Phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one (4.7 g, 17.9 mmol) was combined with N,N,N′,N′-tetramethylethylenediamine (12 mL), and tetrahydrofuran (200 mL) under an atmosphere of nitrogen. The mixture was chilled to 0° C. A solution of n-butyllithium in hexanes (19 mL of 2.5 M) was added dropwise. After the addition was complete the reaction mixture was stirred for 5 minutes at 0° C. and then cooled to −78° C. To the cooled solution was added cyclohexylacetaldehyde (12 g, 35 mmol). The reaction mixture was warmed to ambient temperature and stirred for 30 minutes before quenching with saturated aqueous ammonium chloride. The aqueous layer was extracted with chloroform. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford a yellow oily solid. The oily solid was purified by automated flash chromatography (AnaLogix, eluted with a gradient of 0-30% CMA in chloroform) to provide a yellow solid. The solid was boiled in acetonitrile and filtered. The filtrate was adsorbed onto silica gel and purified by automated flash chromatography (AnaLogix, eluted with a gradient of 0-20% CMA in chloroform) to provide a white foam. The foam was stirred in acetonitrile and filtered to provide 213 mg of 1-(2-cyclohexyl-1-hydroxyethyl)-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a white powder, mp 254-259° C. MS (APCI) m/z 388 (M+H)+; Anal. calcd for C24H25N3O2: C, 74.39; H, 6.50; N, 10.84. Found: C, 74.40; H, 6.37; N, 10.89.

reactant | 2-Phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one | 17.9 mmol, 4.7 g | C1(=CC=CC=C1)N1NC=2CNC=3C=CC=CC3C2C1=O | C16H13N3O
reactant | N,N,N′,N′-tetramethylethylenediamine | 12 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclohexylacetaldehyde | 35 mmol, 12 g | C1(CCCCC1)CC=O | C8H14O
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-cyclohexyl-1-hydroxyethyl)-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 213 mg | C1(CCCCC1)CC(O)C=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C24H25N3O2
